US04841076
(1) Synthesis of {[5-chloro-3-(2-chlorophenyl)-4-oxo-4H-1-benzopyran-7-yl]oxy}acetonitrile
In 50 ml of acetone was dissolved 1.4 g of 5-chloro-3-(2-chlorophenyl)-7-hydroxy-4-oxo-4H-1-benzopyran, and 0.7 g of anhydrous potassium carbonate, 0.38 g of chloroacetonitrile and 0.15 g of potassium iodide were added to the solution, followed by refluxing for 8 hours. Water was added to the reaction mixture, and the precipitated crystals were collected by filtration. Recrystallization of the crystals from ethanol gave 1.4 g of the entitled compound having a melting point of 174° to 175° C.

reactant | 5-chloro-3-(2-chlorophenyl)-7-hydroxy-4-oxo-4H-1-benzopyran | 1.4 g | ClC1=CC(=CC2=C1C(C(=CO2)C2=C(C=CC=C2)Cl)=O)O | C15H8Cl2O3
reactant | potassium carbonate | 0.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | chloroacetonitrile | 0.38 g | ClCC#N | C2H2ClN
reactant | potassium iodide | 0.15 g | [I-].[K+]
solvent | acetone | 50 ml | CC(=O)C | C3H6O
solvent | Water | O | H2O
product | {[5-chloro-3-(2-chlorophenyl)-4-oxo-4H-1-benzopyran-7-yl]oxy}acetonitrile | 1.4 g | ClC1=CC(=CC2=C1C(C(=CO2)C2=C(C=CC=C2)Cl)=O)OCC#N | C17H9Cl2NO3
